US04197240
6-[[Amino[4-hydroxy-3-(methoxymethyl)phenyl]acetyl]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid
α-(3-Ethoxy-1-methyl-3-oxo-1-propen-1-yl)amino-3-(azidomethyl)-4-hydroxybenzeneacetic acid (0.05 mole) is added to tetrahydrofuran (THF) at -10° C. Ethylchloroformate (0.05 mole) is slowly added with stirring while maintaining the temperature at -10° C. After 30 minutes, 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]-heptane-2-carboxylic acid in 1 to 1 mixture of THF/water containing 0.05 mole of triethylamine is added to the thus formed solution. The mixture is stirred at -10° C. for about 30 minutes and then at about 20° C. for 30 minutes. The pH is adjusted to 2 and the reaction mixture is extracted with ethyl ether. The pH is then adjusted to 4.5 to 5.5 and the reaction mixture is extracted with ethyl acetate. The ethyl acetate is dried over sodium sulfate, filtered to remove the drying agent and evaporated to give the title compound.

reactant | α-(3-Ethoxy-1-methyl-3-oxo-1-propen-1-yl)amino-3-(azidomethyl)-4-hydroxybenzeneacetic acid | 0.05 mole | C(C)OC(C=C(C)NC(C(=O)O)C1=CC(=C(C=C1)O)CN=[N+]=[N-])=O | C15H18N4O5
reactant | Ethylchloroformate | 0.05 mole | C(C)OC(=O)Cl | C3H5ClO2
reactant | 6-amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]-heptane-2-carboxylic acid | NC1C2SC(C(N2C1=O)C(=O)O)(C)C | C8H12N2O3S
reactant | THF water | 0.05 mole | O1CCCC1.O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 6-[[Amino[4-hydroxy-3-(methoxymethyl)phenyl]acetyl]amino]-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | NC(C(=O)NC1C2SC(C(N2C1=O)C(=O)O)(C)C)C1=CC(=C(C=C1)O)COC | C18H23N3O6S
